US08735597B2
A synthesis scheme of 4-iodo-N-(2-hydroxyphenyl)benzamide is illustrated in (D-2).
In a 300 mL three-neck flask were put 10 g (92 mmol) of 2-aminophenol, 7.0 mL of triethylamine, and 100 mL of tetrahydrofuran (THF). This solution was stirred at 0° C. for 20 minutes. Then, a mixed solution of 4-iodobenzoic acid chloride (0.10 mol) and 100 mL of tetrahydrofuran (abbreviation: THF) was dripped to the solution. This solution was stirred under a nitrogen stream at 0° C. for 5 hours. After that, about 300 mL of water was added to this solution, followed by extraction with ethyl acetate. Then, the organic layer and the extract were combined and washed with 1M hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution, and saturated brine in that order. After that, magnesium sulfate was added to the organic layer to dry it. Next, this mixture was suction filtered through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855). The resulting filtrate was concentrated to give a solid. This solid was recrystallized with a mixed solvent of ethyl acetate and hexane to give 30 g of a white powdered solid in a yield of 97% through the two steps, Synthesis Schemes (D-1) and (D-2).

reactant | 2-aminophenol | 92 mmol, 10 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 4-iodobenzoic acid chloride | 0.10 mol | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | about 300 mL | O | H2O
product | 4-iodo-N-(2-hydroxyphenyl)benzamide | 30 g, yield of 97% | IC1=CC=C(C(=O)NC2=C(C=CC=C2)O)C=C1 | C13H10INO2
